US05008263
(b) 4-(4-Acetylphenyl)amino-3-aminopyridine
4-(4-Acetylphenyl)amino-3-nitropyridine hydrochloride (2.0 g, 71.8 mmol) was partitioned between aqueous sodium hydroxide and dichloromethane (3×20 ml). The combined organic phases were (kPa) for 3.5 hours. The catalyst was filtered off, and the solvent removed under reduced pressure to give a brown solid, (1.8 g) which was used directly for the next reaction without purification, m.p. 165°-166° C. (after recrystallisation from ethanol).

reactant | 4-(4-Acetylphenyl)amino-3-nitropyridine hydrochloride | 71.8 mmol, 2.0 g | Cl.C(C)(=O)C1=CC=C(C=C1)NC1=C(C=NC=C1)[N+](=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-Acetylphenyl)amino-3-aminopyridine | C(C)(=O)C1=CC=C(C=C1)NC1=C(C=NC=C1)N | C13H13N3O
